US05025036
A mixture of 4.0 g (11.2 mmole) of 1-(6-bromohexyl)-2,3-dimethoxy-4-(1,1-dimethylethyl)benzene, 3.2 g (11.2 mmole) of 2,4-dihydroxy-3-propylbenzoic acid phenylmethyl ester, 3.1 g (22.4 mmole) of potassium carbonate and 1.7 g (11.2 mmole) of sodium iodide in 70 mL of anhydrous acetone and 7 mL of anhydrous dimethylformamide was stirred at reflux for 31 hours. Workup as in Example 16 and purification by HPLC using 5% ethyl acetate-hexane gave 5.3 g, (84% yield) of 2-hydroxy-4-[6-[2,3-dimethoxy-4-(1,1-dimethylethyl)phenyl]hexyloxy]-3-propylbenzoic acid phenylmethyl ester as an oil.

reactant | 1-(6-bromohexyl)-2,3-dimethoxy-4-(1,1-dimethylethyl)benzene | 11.2 mmole, 4.0 g | BrCCCCCCC1=C(C(=C(C=C1)C(C)(C)C)OC)OC | C18H29BrO2
reactant | 2,4-dihydroxy-3-propylbenzoic acid phenylmethyl ester | 11.2 mmole, 3.2 g | C1(=CC=CC=C1)COC(C1=C(C(=C(C=C1)O)CCC)O)=O | C17H18O4
reactant | potassium carbonate | 22.4 mmole, 3.1 g | C([O-])([O-])=O.[K+].[K+]
reactant | sodium iodide | 11.2 mmole, 1.7 g | [I-].[Na+]
solvent | acetone | 70 mL | CC(=O)C | C3H6O
solvent | dimethylformamide | 7 mL | CN(C=O)C | C3H7NO
product | 2-hydroxy-4-[6-[2,3-dimethoxy-4-(1,1-dimethylethyl)phenyl]hexyloxy]-3-propylbenzoic acid phenylmethyl ester | 84% yield | C1(=CC=CC=C1)COC(C1=C(C(=C(C=C1)OCCCCCCC1=C(C(=C(C=C1)C(C)(C)C)OC)OC)CCC)O)=O | C35H46O6
